datasets/10k_Mayr_OG.csv
SMILES Labelled
"C1=CC=C([C:23]2=[CH:22][C:21](=[CH:20][C:41]3=[CH:42][CH:43]=[CH:44][CH:45]=[CH:46]3)[CH:32]=[C:33](C3=CC=CC=C3)[C:24]2=[O:25])C=C1.C1C[CH:63]=[CH:62][CH:11]=[CH:10]1>>C1=CC=C([C:23]2=[C:24]([O-:25])[C:33](C3=CC=CC=C3)=[CH:32][C:21]([CH:20]([CH:10]3CC[CH:63]=[CH:62][CH+:11]3)[C:41]3=[CH:42][CH:43]=[CH:44][CH:45]=[CH:46]3)=[CH:22]2)C=C1 10,11=10,20;20,21=21,22;22,23=23,24;24,25=25"
F[C:33]1=[CH:34][CH:35]=[CH:36][C:31]([CH+:20][C:41]2=[CH:42][CH:43]=[CH:44][C:45](F)=[CH:46]2)=[CH:32]1.[O-][C:62]([CH:61]1CCC[NH:10]1)=[O:63]>>[O-][C:62]([CH:61]1CCC[NH+:10]1[CH:20]([C:31]1=[CH:32][C:33](F)=[CH:34][CH:35]=[CH:36]1)[C:41]1=[CH:42][CH:43]=[CH:44][C:45](F)=[CH:46]1)=[O:63] 10=20
"Br[C:64]1=[CH:63][CH:62]=[C:61]([S-:10])[CH:72]=[CH:73]1.C[O:33][C:22]([CH:21]=[CH2:20])=[O:23]>>C[O:33][C:22](=[CH:21][CH2:20][S:10][C:61]1=[CH:62][CH:63]=[C:64](Br)[CH:73]=[CH:72]1)[O-:23] 10=20;20,21=21,22;22,23=23"
"C1CC[C:11](=[CH2:10])CC1.C[C:20]1=[CH:21][C:22](=[O:23])CC1>>C[C:20]1([CH2:10][C+:11]2CCCCC2)CC[C:22]([O-:23])=[CH:21]1 10,11=10,20;20,21=21,22;22,23=23"
"C1=CC=C(C[Zr:11]23456789([CH2:10]C%10=CC=CC=C%10)(C%10C2C3C4C%105)C2C6C7C8C29)C=C1.C[Si](C)(C)OC(C1=CC=CC=C1)(C1=CC=CC=C1)C1CCC/[N+:23]1=[CH:22]/[CH:21]=[CH:20]/[C:31]1=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]1>>C1=CC=C(C[Zr+:11]23456789(C%10C2C3C4C%105)C2C6C7C8C29)C=C1.C[Si](C)(C)OC(C1=CC=CC=C1)(C1=CC=CC=C1)C1CCC[N:23]1[CH:22]=[CH:21][CH:20]([CH2:10]C1=CC=CC=C1)[C:31]1=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]1 10,11=10,20;20,21=21,22;22,23=23"
"CO[C:34]1=[CH:33][CH:32]=[C:31]([CH:20]=[N+:21](C)C)[CH:36]=[CH:35]1.C[Zr:11]12345678([CH3:10])(C9C1C2C3C94)C1C5C6C7C18>>CO[C:34]1=[CH:33][CH:32]=[C:31]([CH:20]([CH3:10])[N:21](C)C)[CH:36]=[CH:35]1.C[Zr+:11]12345678(C9C1C2C3C94)C1C5C6C7C18 10,11=10,20;20,21=21"
"C1=CC=C([S:32]([C:21](=[CH2:20])[S:41](C2=CC=CC=C2)(=[O:42])=[O:43])(=[O:33])=[O:34])C=C1.C[C:10](=[C:11]=[N-:12])[C:61]1=[CH:62][CH:63]=[C:64](C(F)(F)F)[CH:73]=[CH:72]1>>C[C:10]([C:11]#[N:12])([CH2:20][C-:21]([S:32](C1=CC=CC=C1)(=[O:33])=[O:34])[S:41](C1=CC=CC=C1)(=[O:42])=[O:43])[C:61]1=[CH:62][CH:63]=[C:64](C(F)(F)F)[CH:73]=[CH:72]1 10,11=10,20;12=11,12;20,21=21"
"COC1=CC(CC2C(=O)N(C)C(C)(C)/[N+:23]2=[CH:22]\[CH:21]=[CH:20]\[C:31]2=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]2)=CC(OC)=C1OC.C[N:62]1CCC[N:12]2CCC[N:10]=[C:11]21>>COC1=CC(CC2C(=O)N(C)C(C)(C)[N:23]2[CH:22]=[CH:21][CH:20]([N:10]2CCC[N+:12]3=[C:11]2[N:62](C)CCC3)[C:31]2=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]2)=CC(OC)=C1OC 10,11=10,20;12=11,12;20,21=21,22;22,23=23"
"CN(C)[C:34]1=[CH:33][CH:32]=[C:31]([CH+:20][C:41]2=[CH:42][CH:43]=[C:44](N(C)C)[CH:45]=[CH:46]2)[CH:36]=[CH:35]1.C[Si](C)(C)[O:12][C:11](=[CH:10]C)[O:62][Si:63](C)(C)C>>CN(C)[C:34]1=[CH:33][CH:32]=[C:31]([CH:20]([CH:10](C)[C:11](=[O+:12][Si](C)(C)C)[O:62][Si:63](C)(C)C)[C:41]2=[CH:42][CH:43]=[C:44](N(C)C)[CH:45]=[CH:46]2)[CH:36]=[CH:35]1 10,11=10,20;12=11,12"
"C1=CC=C(C[N+:23](CC2=CC=CC=C2)=[CH:22]/[CH:21]=[CH:20]/[C:31]2=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]2)C=C1.[NH2:10][C:61]1=[CH:62][CH:63]=[CH:64][CH:73]=[CH:72]1>>C1=CC=C(C[N:23](CC2=CC=CC=C2)[CH:22]=[CH:21][CH:20]([NH2+:10][C:61]2=[CH:62][CH:63]=[CH:64][CH:73]=[CH:72]2)[C:31]2=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]2)C=C1 10=20;20,21=21,22;22,23=23"
"CC(C)(C)[C:23]1=[CH:22][C:21](=[CH:20][C:41]2=[CH:42][CH:43]=[C:44]([N+](=O)[O-])[CH:45]=[CH:46]2)[CH:32]=[C:33](C(C)(C)C)[C:24]1=[O:25].C[Si:62](C)(C)[C:11](=[CH2:10])[O:12]C1=CC=CC=C1>>CC(C)(C)[C:23]1=[C:24]([O-:25])[C:33](C(C)(C)C)=[CH:32][C:21]([CH:20]([CH2:10][C:11](=[O+:12]C2=CC=CC=C2)[Si:62](C)(C)C)[C:41]2=[CH:42][CH:43]=[C:44]([N+](=O)[O-])[CH:45]=[CH:46]2)=[CH:22]1 10,11=10,20;12=11,12;20,21=21,22;22,23=23,24;24,25=25"
"C1=CC2=C(C=C1)[C:32](=[O:33])[C:21](=[CH:20][C:31]1=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]1)[C:22]2=[O:23].C[N:12]([C:11]1=[CH:10]CCC1)[C:63]1=[CH:64][CH:65]=[CH:66][CH:75]=[CH:74]1>>C[N+:12](=[C:11]1CCC[CH:10]1[CH:20]([C:21]1=[C:22]([O-:23])C2=C(C=CC=C2)[C:32]1=[O:33])[C:31]1=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]1)[C:63]1=[CH:64][CH:65]=[CH:66][CH:75]=[CH:74]1 10,11=10,20;12=11,12;20,21=21,22;22,23=23"
"C1C[O:33][C:22](=[O:23])[C:21]1=[CH2:20].FC1=CC=CC(F)=C1[B-:11](C1=C(F)C=CC=C1F)(C1=C(F)C=CC=C1F)[H:10]>>C1C[O:33][C:22]([O-:23])=[C:21]1[CH2:20][H:10].FC1=CC=CC(F)=C1[B:11](C1=C(F)C=CC=C1F)C1=C(F)C=CC=C1F 10,11=10,20;20,21=21,22;22,23=23"
"COC1=CC=[N+](C/[C:21](=[CH:20]\[C:31]2=[CH:32][CH:33]=[C:34](OC)[CH:44]=[CH:43]2)[C:22](C)=[O:23])C=C1.C[C:11]1=[CH:10]CCCC1>>COC1=CC=[N+](C[C:21]([CH:20]([CH:10]2CCCC[C+:11]2C)[C:31]2=[CH:32][CH:33]=[C:34](OC)[CH:44]=[CH:43]2)=[C:22](C)[O-:23])C=C1 10,11=10,20;20,21=21,22;22,23=23"
"C1C[O:33][C:22](=[O:23])[C:21]1=[CH2:20].[NH2:10][C:61]1=[CH:62][CH:63]=[CH:64][CH:73]=[CH:72]1>>C1C[O:33][C:22]([O-:23])=[C:21]1[CH2:20][NH2+:10][C:61]1=[CH:62][CH:63]=[CH:64][CH:73]=[CH:72]1 10=20;20,21=21,22;22,23=23"
